US08008298B2
(1-Methyl-cyclohexyl)-{2-[4-(4-methyl-piperazin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperazine following general procedures as described in these Examples. MP 225-226° C., M+H=418.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperazine | CN1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H27BN2O2
product | (1-Methyl-cyclohexyl)-{2-[4-(4-methyl-piperazin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)N2CCN(CC2)C | C25H31N5O
